US07572820B2
Methyl [4-chloro-5-cyano-2-(difluoromethyl)-1H-indol-1-yl]acetate
Synthesized as described in Example 4 using 4-chloro-2-(difluoromethyl)-1H-indole-5-carbonitrile, methyl bromoacetate (2 eq) and Cs2CO3 (2 eq): MS (ES) m/z 299 (M+1).

reactant | 4-chloro-2-(difluoromethyl)-1H-indole-5-carbonitrile | ClC1=C2C=C(NC2=CC=C1C#N)C(F)F | C10H5ClF2N2
reactant | methyl bromoacetate | 2 eq | BrCC(=O)OC | C3H5BrO2
reactant | Cs2CO3 | 2 eq | C(=O)([O-])[O-].[Cs+].[Cs+]
product | Methyl [4-chloro-5-cyano-2-(difluoromethyl)-1H-indol-1-yl]acetate | ClC1=C2C=C(N(C2=CC=C1C#N)CC(=O)OC)C(F)F | C13H9ClF2N2O2
